US04650799
1,2-Bis[4-(3,4-methylenedioxybenzoyloxymethyl)-3,5-dioxopiperazin-1-yl]ethane
To a mixture of 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane (0.94 g, 3.0 m mol) and pyridine (10 ml), piperonyloyl chloride (1.00 g, 6.0 m mol) dissolved in pyridine (10 ml) was added, and then the mixture was stirred for 20 hours at room temperature. To the reaction mixture, chloroform (250 ml) was added and the solution was washed with 10% sulfuric acid solution and successively with water, further was washed with aqueous sodium bicarbonate solution and successively with water. Then, the solvent was removed under reduced pressure to give the titled compound (1.12 g; yield 61%).

reactant | 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane | 0.94 g | OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)CO)=O)=O | C12H18N4O6
reactant | piperonyloyl chloride | 1.00 g | C(C1=CC=2OCOC2C=C1)(=O)Cl | C8H5ClO3
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1,2-Bis[4-(3,4-methylenedioxybenzoyloxymethyl)-3,5-dioxopiperazin-1-yl]ethane | 1.12 g, yield 61% | C1OC=2C=C(C(=O)OCN3C(CN(CC3=O)CCN3CC(N(C(C3)=O)COC(C3=CC4=C(C=C3)OCO4)=O)=O)=O)C=CC2O1 | C28H26N4O12
